* four_port - lumped-element equivalent (Ngspice / SPICE3)
* generated by snp2le
* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
* 
* 
.SUBCKT four_port p1 p2 p3 p4
V1 p1 s1 0
R1 s1 0 50 noisy=0
Gd1_1 0 s1 p1 0 0.002716363501
Fd1_1 0 s1 V1 0.135818175
Gr1_1_1 0 s1 x1_a1 0 -1.242041526
Gr2_re_1_1 0 s1 x2_re_a1 0 443688.2374
Gr2_im_1_1 0 s1 x2_im_a1 0 118961.5694
Gr3_1_1 0 s1 x3_a1 0 0.7798650765
Gr4_re_1_1 0 s1 x4_re_a1 0 631432.6087
Gr4_im_1_1 0 s1 x4_im_a1 0 -116161.3238
Gr5_re_1_1 0 s1 x5_re_a1 0 696027.1897
Gr5_im_1_1 0 s1 x5_im_a1 0 -62024.54776
Gd1_2 0 s1 p2 0 0.001198546389
Fd1_2 0 s1 V2 0.05992731947
Gr1_1_2 0 s1 x1_a2 0 -0.03766812697
Gr2_re_1_2 0 s1 x2_re_a2 0 -567181.2016
Gr2_im_1_2 0 s1 x2_im_a2 0 238875.5301
Gr3_1_2 0 s1 x3_a2 0 0.7926751573
Gr4_re_1_2 0 s1 x4_re_a2 0 -641933.0273
Gr4_im_1_2 0 s1 x4_im_a2 0 113076.8211
Gr5_re_1_2 0 s1 x5_re_a2 0 692430.8665
Gr5_im_1_2 0 s1 x5_im_a2 0 -66626.40525
Gd1_3 0 s1 p3 0 -0.0004137960441
Fd1_3 0 s1 V3 -0.0206898022
Gr1_1_3 0 s1 x1_a3 0 -0.05819064407
Gr2_re_1_3 0 s1 x2_re_a3 0 555703.9692
Gr2_im_1_3 0 s1 x2_im_a3 0 -393259.9056
Gr3_1_3 0 s1 x3_a3 0 0.8126755223
Gr4_re_1_3 0 s1 x4_re_a3 0 -638421.8077
Gr4_im_1_3 0 s1 x4_im_a3 0 116247.3314
Gr5_re_1_3 0 s1 x5_re_a3 0 -698613.6707
Gr5_im_1_3 0 s1 x5_im_a3 0 63618.75623
Gd1_4 0 s1 p4 0 0.0007908438152
Fd1_4 0 s1 V4 0.03954219076
Gr1_1_4 0 s1 x1_a4 0 -0.02552303994
Gr2_re_1_4 0 s1 x2_re_a4 0 -587756.7944
Gr2_im_1_4 0 s1 x2_im_a4 0 272010.1648
Gr3_1_4 0 s1 x3_a4 0 0.7981630451
Gr4_re_1_4 0 s1 x4_re_a4 0 643410.3673
Gr4_im_1_4 0 s1 x4_im_a4 0 -120363.9637
Gr5_re_1_4 0 s1 x5_re_a4 0 -693802.2405
Gr5_im_1_4 0 s1 x5_im_a4 0 63189.09075
Cx1_a1 x1_a1 0 3.190629032e-13
Gx1_a1 0 x1_a1 p1 0 0.02484083052
Fx1_a1 0 x1_a1 V1 1.242041526
Rp1_a1 0 x1_a1 1 noisy=0
Cx2_re_a1 x2_re_a1 0 1.859227378e-12
Gx2_re_a1 0 x2_re_a1 p1 0 3.309545825e-08
Fx2_re_a1 0 x2_re_a1 V1 1.654772913e-06
Rp2_re_re_a1 0 x2_re_a1 1 noisy=0
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 3.819597671
Cx2_im_a1 x2_im_a1 0 1.859227378e-12
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -3.819597671
Rp2_im_im_a1 0 x2_im_a1 1 noisy=0
Cx3_a1 x3_a1 0 1.544151282e-12
Gx3_a1 0 x3_a1 p1 0 0.01625351045
Fx3_a1 0 x3_a1 V1 0.8126755223
Rp3_a1 0 x3_a1 1 noisy=0
Cx4_re_a1 x4_re_a1 0 2.815848113e-12
Gx4_re_a1 0 x4_re_a1 p1 0 3.433629193e-08
Fx4_re_a1 0 x4_re_a1 V1 1.716814596e-06
Rp4_re_re_a1 0 x4_re_a1 1 noisy=0
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 3.227476569
Cx4_im_a1 x4_im_a1 0 2.815848113e-12
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -3.227476569
Rp4_im_im_a1 0 x4_im_a1 1 noisy=0
Cx5_re_a1 x5_re_a1 0 3.040298317e-12
Gx5_re_a1 0 x5_re_a1 p1 0 3.172222254e-08
Fx5_re_a1 0 x5_re_a1 V1 1.586111127e-06
Rp5_re_re_a1 0 x5_re_a1 1 noisy=0
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 2.924604045
Cx5_im_a1 x5_im_a1 0 3.040298317e-12
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -2.924604045
Rp5_im_im_a1 0 x5_im_a1 1 noisy=0
V2 p2 s2 0
R2 s2 0 50 noisy=0
Gd2_1 0 s2 p1 0 0.001198546389
Fd2_1 0 s2 V1 0.05992731947
Gr1_2_1 0 s2 x1_a1 0 -0.03760927995
Gr2_re_2_1 0 s2 x2_re_a1 0 -567180.811
Gr2_im_2_1 0 s2 x2_im_a1 0 238875.3657
Gr3_2_1 0 s2 x3_a1 0 0.792664334
Gr4_re_2_1 0 s2 x4_re_a1 0 -641042.0963
Gr4_im_2_1 0 s2 x4_im_a1 0 112919.8832
Gr5_re_2_1 0 s2 x5_re_a1 0 692524.9578
Gr5_im_2_1 0 s2 x5_im_a1 0 -66635.45882
Gd2_2 0 s2 p2 0 0.0026598572
Fd2_2 0 s2 V2 0.13299286
Gr1_2_2 0 s2 x1_a2 0 -1.240101147
Gr2_re_2_2 0 s2 x2_re_a2 0 442596.5226
Gr2_im_2_2 0 s2 x2_im_a2 0 120287.7021
Gr3_2_2 0 s2 x3_a2 0 0.7791214314
Gr4_re_2_2 0 s2 x4_re_a2 0 630987.3888
Gr4_im_2_2 0 s2 x4_im_a2 0 -115831.9827
Gr5_re_2_2 0 s2 x5_re_a2 0 696547.8886
Gr5_im_2_2 0 s2 x5_im_a2 0 -61210.09504
Gd2_3 0 s2 p3 0 0.0007940807327
Fd2_3 0 s2 V3 0.03970403664
Gr1_2_3 0 s2 x1_a3 0 -0.02556177733
Gr2_re_2_3 0 s2 x2_re_a3 0 -587826.1248
Gr2_im_2_3 0 s2 x2_im_a3 0 270453.9956
Gr3_2_3 0 s2 x3_a3 0 0.79732911
Gr4_re_2_3 0 s2 x4_re_a3 0 643490.4124
Gr4_im_2_3 0 s2 x4_im_a3 0 -120015.1614
Gr5_re_2_3 0 s2 x5_re_a3 0 -694157.9451
Gr5_im_2_3 0 s2 x5_im_a3 0 62516.73112
Gd2_4 0 s2 p4 0 -0.0004135326353
Fd2_4 0 s2 V4 -0.02067663176
Gr1_2_4 0 s2 x1_a4 0 -0.05810162598
Gr2_re_2_4 0 s2 x2_re_a4 0 555644.632
Gr2_im_2_4 0 s2 x2_im_a4 0 -393212.44
Gr3_2_4 0 s2 x3_a4 0 0.812664426
Gr4_re_2_4 0 s2 x4_re_a4 0 -637052.9398
Gr4_im_2_4 0 s2 x4_im_a4 0 116089.1674
Gr5_re_2_4 0 s2 x5_re_a4 0 -698898.5039
Gr5_im_2_4 0 s2 x5_im_a4 0 63507.99218
Cx1_a2 x1_a2 0 3.190629032e-13
Gx1_a2 0 x1_a2 p2 0 0.02480202294
Fx1_a2 0 x1_a2 V2 1.240101147
Rp1_a2 0 x1_a2 1 noisy=0
Cx2_re_a2 x2_re_a2 0 1.859227378e-12
Gx2_re_a2 0 x2_re_a2 p2 0 3.309543546e-08
Fx2_re_a2 0 x2_re_a2 V2 1.654771773e-06
Rp2_re_re_a2 0 x2_re_a2 1 noisy=0
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 3.819597671
Cx2_im_a2 x2_im_a2 0 1.859227378e-12
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -3.819597671
Rp2_im_im_a2 0 x2_im_a2 1 noisy=0
Cx3_a2 x3_a2 0 1.544151282e-12
Gx3_a2 0 x3_a2 p2 0 0.01625328852
Fx3_a2 0 x3_a2 V2 0.812664426
Rp3_a2 0 x3_a2 1 noisy=0
Cx4_re_a2 x4_re_a2 0 2.815848113e-12
Gx4_re_a2 0 x4_re_a2 p2 0 3.428863701e-08
Fx4_re_a2 0 x4_re_a2 V2 1.71443185e-06
Rp4_re_re_a2 0 x4_re_a2 1 noisy=0
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 3.227476569
Cx4_im_a2 x4_im_a2 0 2.815848113e-12
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -3.227476569
Rp4_im_im_a2 0 x4_im_a2 1 noisy=0
Cx5_re_a2 x5_re_a2 0 3.040298317e-12
Gx5_re_a2 0 x5_re_a2 p2 0 3.172653313e-08
Fx5_re_a2 0 x5_re_a2 V2 1.586326657e-06
Rp5_re_re_a2 0 x5_re_a2 1 noisy=0
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 2.924604045
Cx5_im_a2 x5_im_a2 0 3.040298317e-12
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -2.924604045
Rp5_im_im_a2 0 x5_im_a2 1 noisy=0
V3 p3 s3 0
R3 s3 0 50 noisy=0
Gd3_1 0 s3 p1 0 -0.000413796044
Fd3_1 0 s3 V1 -0.0206898022
Gr1_3_1 0 s3 x1_a1 0 -0.05808956409
Gr2_re_3_1 0 s3 x2_re_a1 0 555736.9343
Gr2_im_3_1 0 s3 x2_im_a1 0 -393283.2343
Gr3_3_1 0 s3 x3_a1 0 0.8126755223
Gr4_re_3_1 0 s3 x4_re_a1 0 -637535.7499
Gr4_im_3_1 0 s3 x4_im_a1 0 116085.9932
Gr5_re_3_1 0 s3 x5_re_a1 0 -698704.5658
Gr5_im_3_1 0 s3 x5_im_a1 0 63627.03353
Gd3_2 0 s3 p2 0 0.0007940807328
Fd3_2 0 s3 V2 0.03970403664
Gr1_3_2 0 s3 x1_a2 0 -0.02555730217
Gr2_re_3_2 0 s3 x2_re_a2 0 -587861.4002
Gr2_im_3_2 0 s3 x2_im_a2 0 270470.2255
Gr3_3_2 0 s3 x3_a2 0 0.797339997
Gr4_re_3_2 0 s3 x4_re_a2 0 643490.4124
Gr4_im_3_2 0 s3 x4_im_a2 0 -120015.1614
Gr5_re_3_2 0 s3 x5_re_a2 0 -694153.935
Gr5_im_3_2 0 s3 x5_im_a2 0 62516.36996
Gd3_3 0 s3 p3 0 0.002653062701
Fd3_3 0 s3 V3 0.132653135
Gr1_3_3 0 s3 x1_a3 0 -1.239884039
Gr2_re_3_3 0 s3 x2_re_a3 0 442514.3368
Gr2_im_3_3 0 s3 x2_im_a3 0 120329.6324
Gr3_3_3 0 s3 x3_a3 0 0.7789670267
Gr4_re_3_3 0 s3 x4_re_a3 0 631420.7044
Gr4_im_3_3 0 s3 x4_im_a3 0 -115671.4143
Gr5_re_3_3 0 s3 x5_re_a3 0 695880.4192
Gr5_im_3_3 0 s3 x5_im_a3 0 -61358.34893
Gd3_4 0 s3 p4 0 0.001197396189
Fd3_4 0 s3 V4 0.05986980947
Gr1_3_4 0 s3 x1_a4 0 -0.03753382665
Gr2_re_3_4 0 s3 x2_re_a4 0 -567067.7548
Gr2_im_3_4 0 s3 x2_im_a4 0 238751.0335
Gr3_3_4 0 s3 x3_a4 0 0.7924598498
Gr4_re_3_4 0 s3 x4_re_a4 0 -640993.7711
Gr4_im_3_4 0 s3 x4_im_a4 0 112763.783
Gr5_re_3_4 0 s3 x5_re_a4 0 692070.5771
Gr5_im_3_4 0 s3 x5_im_a4 0 -66652.4145
Cx1_a3 x1_a3 0 3.190629032e-13
Gx1_a3 0 x1_a3 p3 0 0.02479768079
Fx1_a3 0 x1_a3 V3 1.239884039
Rp1_a3 0 x1_a3 1 noisy=0
Cx2_re_a3 x2_re_a3 0 1.859227378e-12
Gx2_re_a3 0 x2_re_a3 p3 0 3.309742152e-08
Fx2_re_a3 0 x2_re_a3 V3 1.654871076e-06
Rp2_re_re_a3 0 x2_re_a3 1 noisy=0
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 3.819597671
Cx2_im_a3 x2_im_a3 0 1.859227378e-12
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -3.819597671
Rp2_im_im_a3 0 x2_im_a3 1 noisy=0
Cx3_a3 x3_a3 0 1.544151282e-12
Gx3_a3 0 x3_a3 p3 0 0.01625351045
Fx3_a3 0 x3_a3 V3 0.8126755223
Rp3_a3 0 x3_a3 1 noisy=0
Cx4_re_a3 x4_re_a3 0 2.815848113e-12
Gx4_re_a3 0 x4_re_a3 p3 0 3.428863701e-08
Fx4_re_a3 0 x4_re_a3 V3 1.71443185e-06
Rp4_re_re_a3 0 x4_re_a3 1 noisy=0
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 3.227476569
Cx4_im_a3 x4_im_a3 0 2.815848113e-12
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -3.227476569
Rp4_im_im_a3 0 x4_im_a3 1 noisy=0
Cx5_re_a3 x5_re_a3 0 3.040298317e-12
Gx5_re_a3 0 x5_re_a3 p3 0 3.172634985e-08
Fx5_re_a3 0 x5_re_a3 V3 1.586317493e-06
Rp5_re_re_a3 0 x5_re_a3 1 noisy=0
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 2.924604045
Cx5_im_a3 x5_im_a3 0 3.040298317e-12
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -2.924604045
Rp5_im_im_a3 0 x5_im_a3 1 noisy=0
V4 p4 s4 0
R4 s4 0 50 noisy=0
Gd4_1 0 s4 p1 0 0.0007908438152
Fd4_1 0 s4 V1 0.03954219076
Gr1_4_1 0 s4 x1_a1 0 -0.02551800592
Gr2_re_4_1 0 s4 x2_re_a1 0 -587721.5252
Gr2_im_4_1 0 s4 x2_im_a1 0 271993.8424
Gr3_4_1 0 s4 x3_a1 0 0.7981521469
Gr4_re_4_1 0 s4 x4_re_a1 0 643410.3673
Gr4_im_4_1 0 s4 x4_im_a1 0 -120363.9637
Gr5_re_4_1 0 s4 x5_re_a1 0 -693986.7997
Gr5_im_4_1 0 s4 x5_im_a1 0 63205.89976
Gd4_2 0 s4 p2 0 -0.0004135326347
Fd4_2 0 s4 V2 -0.02067663174
Gr1_4_2 0 s4 x1_a2 0 -0.05818105974
Gr2_re_4_2 0 s4 x2_re_a2 0 555611.6723
Gr2_im_4_2 0 s4 x2_im_a2 0 -393189.1155
Gr3_4_2 0 s4 x3_a2 0 0.812664426
Gr4_re_4_2 0 s4 x4_re_a2 0 -637938.3266
Gr4_im_4_2 0 s4 x4_im_a2 0 116250.5101
Gr5_re_4_2 0 s4 x5_re_a2 0 -698989.4362
Gr5_im_4_2 0 s4 x5_im_a2 0 63516.25506
Gd4_3 0 s4 p3 0 0.00119739619
Fd4_3 0 s4 V3 0.05986980949
Gr1_4_3 0 s4 x1_a3 0 -0.03759172237
Gr2_re_4_3 0 s4 x2_re_a3 0 -567000.0919
Gr2_im_4_3 0 s4 x2_im_a3 0 238722.5456
Gr3_4_3 0 s4 x3_a3 0 0.7924490295
Gr4_re_4_3 0 s4 x4_re_a3 0 -641884.6349
Gr4_im_4_3 0 s4 x4_im_a3 0 112920.504
Gr5_re_4_3 0 s4 x5_re_a3 0 692164.6195
Gr5_im_4_3 0 s4 x5_im_a3 0 -66661.4716
Gd4_4 0 s4 p4 0 0.002711466436
Fd4_4 0 s4 V4 0.1355733218
Gr1_4_4 0 s4 x1_a4 0 -1.241796553
Gr2_re_4_4 0 s4 x2_re_a4 0 443174.4106
Gr2_im_4_4 0 s4 x2_im_a4 0 118893.8282
Gr3_4_4 0 s4 x3_a4 0 0.779671886
Gr4_re_4_4 0 s4 x4_re_a4 0 630896.081
Gr4_im_4_4 0 s4 x4_im_a4 0 -116012.4059
Gr5_re_4_4 0 s4 x5_re_a4 0 695926.4902
Gr5_im_4_4 0 s4 x5_im_a4 0 -61949.45099
Cx1_a4 x1_a4 0 3.190629032e-13
Gx1_a4 0 x1_a4 p4 0 0.02483593106
Fx1_a4 0 x1_a4 V4 1.241796553
Rp1_a4 0 x1_a4 1 noisy=0
Cx2_re_a4 x2_re_a4 0 1.859227378e-12
Gx2_re_a4 0 x2_re_a4 p4 0 3.309347231e-08
Fx2_re_a4 0 x2_re_a4 V4 1.654673616e-06
Rp2_re_re_a4 0 x2_re_a4 1 noisy=0
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 3.819597671
Cx2_im_a4 x2_im_a4 0 1.859227378e-12
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -3.819597671
Rp2_im_im_a4 0 x2_im_a4 1 noisy=0
Cx3_a4 x3_a4 0 1.544151282e-12
Gx3_a4 0 x3_a4 p4 0 0.01625328852
Fx3_a4 0 x3_a4 V4 0.812664426
Rp3_a4 0 x3_a4 1 noisy=0
Cx4_re_a4 x4_re_a4 0 2.815848113e-12
Gx4_re_a4 0 x4_re_a4 p4 0 3.433629193e-08
Fx4_re_a4 0 x4_re_a4 V4 1.716814596e-06
Rp4_re_re_a4 0 x4_re_a4 1 noisy=0
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 3.227476569
Cx4_im_a4 x4_im_a4 0 2.815848113e-12
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -3.227476569
Rp4_im_im_a4 0 x4_im_a4 1 noisy=0
Cx5_re_a4 x5_re_a4 0 3.040298317e-12
Gx5_re_a4 0 x5_re_a4 p4 0 3.1730661e-08
Fx5_re_a4 0 x5_re_a4 V4 1.58653305e-06
Rp5_re_re_a4 0 x5_re_a4 1 noisy=0
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 2.924604045
Cx5_im_a4 x5_im_a4 0 3.040298317e-12
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -2.924604045
Rp5_im_im_a4 0 x5_im_a4 1 noisy=0
.ENDS four_port
